US07332614B2
Preparation of 1-[(3-cyclopentyl-1-methyl-2-(pyridin-2-yl)-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid
To a solution of i-PrMgCl in THF (10 mL, 20 mmol) was added 2-bromopyridine (1.93 g, 20.2 mmol) at room temperature in one portion. The mixture was stirred at 35° C. for 0.5 h. To the deep-red solution was added ZnBr2 (4.50 g, 20 mmol) under argon and the resulting mixture was stirred at 70° C. for 0.5 h to obtain a thick off-white slurry. 1-Methyl-2-pyrrolidinone (20 mL) was added and followed by methyl benzoate (1.1 mL, 8.7 mmol). The mixture was stirred at 70° C. for 0.5 h and then cooled to room temperature. Palladium acetate (39.1 mg, 0.17 mmol), triphenylphosphine (182.6 mg, 0.70 mmol) and 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester (3.768 g, 8.70 mmol) were added. The mixture was stirred at 90° C. until no starting material was left (˜3 h) as monitored by HPLC. Saturated ammonium chloride (20 mL), isopropyl acetate (20 mL) and THF (10 mL) were added. The pH of the mixture was adjusted to 4-5 using 4 HCl (˜3 mL) and the mixture was stirred at 60° C. for 5 minutes and then transferred to a separatory funnel. The aqueous layer was separated and extracted with isopropyl acetate (20 mL) at 60° C. The combined organic phases were washed with a mixture of saturated ammonium chloride (10 mL) and water (10 mL) at 60° C. The organic layer was extracted with 4 N HCl (15 and 10 mL). To the combined extracts cooled in an ice-water bath was slowly added 50% NaOH (9.40 g, 117.5 mmol). The mixture was heated to reflux until the batch inside temperature reached 89-90° C. n-Propanol (10 mL) was added and the mixture was stirred at 90° C. for 1 h. After the mixture was cooled to 60° C., acetic acid (1.57 g, 26.1 mmol) was slowly added to adjust the pH to 5-6. The resulting white suspension was stirred at 60° C. for 1 h and allowed to cool to room temperature in 2 h. The white precipitate was collected by filtration and the wet cake was rinsed with 2:1 water/n-propanol (15 mL) and water (50 mL). The solid was dried under vacuum until a constant weight (2.67 g, 74%). 1H NMR (400 MHz, DMSO-d6) δ 12.25 (s, 1H), 8.92 (s, 1H), 8.80 (d, J=4.0 Hz, 1H), 8.13 (s, 1H), 7.98 (dt, J=1.5, 7.5 Hz, 1H), 7.70 (d, J=8.5, 1H), 7.68-7.56 (m, 2H), 7.52-7.45 (m, 1H), 3.71 (s, 3H), 3.21-3.08 (m, 1H), 2.68-2.55 2H), 2.42-2.28 (m, 2H), 2.05-1.80 (m, 8H), 1.70-1.55 (m, 2H).

reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | 2-bromopyridine | 20.2 mmol, 1.93 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | methyl benzoate | 8.7 mmol, 1.1 mL | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | triphenylphosphine | 0.70 mmol, 182.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester | 8.70 mmol, 3.768 g | COC(=O)C1(CCC1)NC(=O)C1=CC=C2C(=C(N(C2=C1)C)Br)C1CCCC1 | C21H25BrN2O3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | isopropyl acetate | 20 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | HCl | ˜3 mL | Cl | ClH
reactant | NaOH | 117.5 mmol, 9.40 g | [OH-].[Na+]
reactant | acetic acid | 26.1 mmol, 1.57 g | C(C)(=O)O | C2H4O2
catalyst | ZnBr2 | 20 mmol, 4.50 g | [Zn+2].[Br-].[Br-]
catalyst | Palladium acetate | 0.17 mmol, 39.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | n-Propanol | 10 mL | C(CC)O | C3H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | 1-Methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
product | 1-[(3-cyclopentyl-1-methyl-2-(pyridin-2-yl)-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid | C1(CCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)NC1(CCC1)C(=O)O)C)C1=NC=CC=C1 | C25H27N3O3
